US04254134
N-(1,3,4,9-tetrahydro-9-methyl-2H-carbazol-2-yl)acetamide (Compound 3L)
A mixture of 0.1 mol of N-(1,3,4,9-tetrahydro-2H-carbazol-2-yl)acetamide, 0.15 mol of powdered KOH, and 75 ml of DMSO was stirred under nitrogen for 2 hr at room temperature. Methyl iodide (0.15 mol) was added in one portion, and, after brief cooling to moderate the exothermic reaction, the mixture was stirred at room temperature for 2 hr. The precipitate obtained by pouring the reaction mixture into excess water, was filtered, washed with water, and recrystallized from ethyl acetate to give the title compound, mp 171°-172°.

reactant | N-(1,3,4,9-tetrahydro-2H-carbazol-2-yl)acetamide | 0.1 mol | C1C(CCC=2C3=CC=CC=C3NC12)NC(C)=O | C14H16N2O
reactant | KOH | 0.15 mol | [OH-].[K+]
reactant | DMSO | 75 ml | CS(=O)C | C2H6OS
reactant | Methyl iodide | 0.15 mol | CI | CH3I
solvent | water | O | H2O
product | N-(1,3,4,9-tetrahydro-9-methyl-2H-carbazol-2-yl)acetamide | CN1C2=CC=CC=C2C=2CCC(CC12)NC(C)=O | C15H18N2O
